US04421914
m-Chloroaniline (12.8 g) and diethyl bromomalonate (9.6 g) were dissolved in dry toluene (20 ml). The solution was heated under reflux with stirring for 3 hours. The reaction mixture was washed with dilute hydrochloric acid and then three times with water, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was washed with n-hexane to give 3.3 g (yield 29%) of diethyl m-chloroanilinomalonate having the following NMR data.

reactant | m-Chloroaniline | 12.8 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | diethyl bromomalonate | 9.6 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl m-chloroanilinomalonate | 3.3 g, yield 29% | ClC=1C=C(NC(C(=O)OCC)C(=O)OCC)C=CC1 | C13H16ClNO4
